US04607030
2-Aminomethyl-4-(1,1-dimethylethyl)-6-(1-pyrrolidinylsulfonyl)-phenol hydrochloride
This compound is prepared analogously to Examples 11c and 11d from 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol and pyrrolidine.

reactant | 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)Cl)O | C13H18ClNO4S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-(1-pyrrolidinylsulfonyl)-phenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)N1CCCC1)O | InChI=1S/C15H24N2O3S.ClH/c1-15(2,3)12-8-11(10-16)14(18)13(9-12)21(19,20)17-6-4-5-7-17;/h8-9,18H,4-7,10,16H2,1-3H3;1H
